US09403773B2
8-(3-Benzyloxypropoxy)-5-fluoro-3-(4-methoxyphenyl)-1H-quinolin-4-one (1.95 g, 4.49 mmol) and a 10% palladium carbon (720 mg) were added to ethanol (50 ml). The mixture was stirred at 50° C. for 7.5 hours under a hydrogen atmosphere (1 atmosphere) and subjected to a catalytic reduction. The reaction mixture was cooled to room temperature, and filtration with Celite was conducted to remove the solvent. The filtrate was concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (dichloromethane:methanol=80:1→20:1). The purified product was concentrated under reduced pressure, and the residue was concentrated to dryness to thereby obtain 820 mg of pale dark brown amorphous solid 5-fluoro-8-(3-hydroxypropoxy)-3-(4-methoxyphenyl)-1H-quinolin-4-one (yield: 53%).

reactant | 8-(3-Benzyloxypropoxy)-5-fluoro-3-(4-methoxyphenyl)-1H-quinolin-4-one | 4.49 mmol, 1.95 g | C(C1=CC=CC=C1)OCCCOC=1C=CC(=C2C(C(=CNC12)C1=CC=C(C=C1)OC)=O)F | C26H24FNO4
catalyst | palladium carbon | 720 mg | [C].[Pd]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-fluoro-8-(3-hydroxypropoxy)-3-(4-methoxyphenyl)-1H-quinolin-4-one | yield: 53% | FC1=C2C(C(=CNC2=C(C=C1)OCCCO)C1=CC=C(C=C1)OC)=O | C19H18FNO4
